US04487764
(h) Z-Lys-Lys-Tyr-Phe-Arg-OH diacetate
1.6 g of Z-Lys(Boc)-Lys(Boc)-Tyr(But)-Phe-Arg-OBut are dissolved in 15 ml of 90% strength trifluoroacetic acid. The solution is left to stand at room temperature for 1 hour and is concentrated. The residue is triturated with ether and is suction-drained. The residue is then dissolved in water and chromatographed over a weakly basic ion exchanger (acetate form). The eluate is concentrated and chromatographed in 90% strength methanol over a crosslinked, hydroxypropylated dextran gel. Yield 920 mg, [α]D24 =-29.7° (c=1, methanol).

reactant | Z-Lys(Boc)-Lys(Boc)-Tyr(But)-Phe-Arg-OBut | 1.6 g | N([C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCCNC(N)=N)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C62H94N10O13
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | Z-Lys-Lys-Tyr-Phe-Arg-OH diacetate | N([C@@H](CCCCN)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)C(=O)OCC1=CC=CC=C1.CC(=O)O.CC(=O)O | InChI=1S/C44H62N10O9.2C2H4O2/c45-23-9-7-16-33(50-39(57)34(17-8-10-24-46)54-44(62)63-28-31-14-5-2-6-15-31)38(56)52-37(27-30-19-21-32(55)22-20-30)41(59)53-36(26-29-12-3-1-4-13-29)40(58)51-35(42(60)61)18-11-25-49-43(47)48;2*1-2(3)4/h1-6,12-15,19-22,33-37,55H,7-11,16-18,23-28,45-46H2,(H,50,57)(H,51,58)(H,52,56)(H,53,59)(H,54,62)(H,60,61)(H4,47,48,49);2*1H3,(H,3,4)/t33-,34-,35-,36-,37-;;/m0../s1
